US07598387B2
Preparation of 4-[2-(N-methyl-N-(2-pyridyl)amino)ethoxy]benzaldehyde sodium metabisulphite complex
4-[2-(N-methyl-N-(2-pyridyl)amino)ethoxy]benzaldehyde (10 gms, 0.039M) was stirred with industrial spirit (150 ml) and cooled to 15° C. A solution of sodium metabisulphite (11 gms, 0.057M) in water (20 ml) was added drop wise to the above solution over a time period of about 15 to 20 minutes, whilst maintaining the temperature below about 20° C. The reaction mixture was further cooled to 10° C. and stirred for 1 to 2 hours. The resulting precipitate was then filtered and washed with industrial spirit (25 ml×2) followed by water (25 ml). The solid obtained was then dried in a vacuum oven at 40° C. to obtain the title complex (10 gms, HPLC purity 98.5%).

reactant | 4-[2-(N-methyl-N-(2-pyridyl)amino)ethoxy]benzaldehyde | 0.039M, 10 gms | CN(C1=NC=CC=C1)CCOC1=CC=C(C=O)C=C1 | C15H16N2O2
reactant | sodium metabisulphite | 0.057M, 11 gms | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 20 ml | O | H2O
product | 4-[2-(N-methyl-N-(2-pyridyl)amino)ethoxy]benzaldehyde sodium metabisulphite | 10 gms | S(=O)(=O)([O-])S(=O)[O-].[Na+].CN(C1=NC=CC=C1)CCOC1=CC=C(C=O)C=C1.[Na+] | InChI=1S/C15H16N2O2.2Na.H2O5S2/c1-17(15-4-2-3-9-16-15)10-11-19-14-7-5-13(12-18)6-8-14;;;1-6(2)7(3,4)5/h2-9,12H,10-11H2,1H3;;;(H,1,2)(H,3,4,5)/q;2*+1;/p-2
